US06906060B2
{[4-((R)-Octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]}-{phenyl}methanone
180 mg of the title compound were prepared as described for [3,5-difluoro-4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]-[phenyl]methanone, using 4-fluorobenzophenone instead of 3,4,5-trifluorobenzophenone.

reactant | [3,5-difluoro-4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]-[phenyl]methanone | FC=1C=C(C=C(C1N1C[C@@H]2N(CC1)CCCC2)F)C(=O)C2=CC=CC=C2 | C21H22F2N2O
reactant | 4-fluorobenzophenone | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
product | {[4-((R)-Octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]}-{phenyl}methanone | 180 mg | C1[C@@H]2N(CCN1C1=CC=C(C=C1)C(=O)C1=CC=CC=C1)CCCC2 | C21H24N2O
